US05112817
Following the same procedure as in Example 23-(c), reaction and treatment were carried out using 360 mg of the above synthesized 5-hydroxy-8-methylquinoline, 1.39 g of 4-(3-chloro-2-hydroxypropyl)-1-diphenylmethylpiperazine and 300 mg of t-BuOK in order to obtain 120 mg of 5-[3-(4-diphenylmethylpiperazine-1-yl)-2-hydroxypropoxy]-8-methylquinoline.

reactant | 5-hydroxy-8-methylquinoline | OC1=C2C=CC=NC2=C(C=C1)C | C10H9NO
reactant | 4-(3-chloro-2-hydroxypropyl)-1-diphenylmethylpiperazine | 1.39 g | ClCC(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)O | C20H25ClN2O
reactant | t-BuOK | 300 mg | CC(C)(C)[O-].[K+]
product | 5-[3-(4-diphenylmethylpiperazine-1-yl)-2-hydroxypropoxy]-8-methylquinoline | 120 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CC(COC1=C2C=CC=NC2=C(C=C1)C)O)C1=CC=CC=C1 | C30H33N3O2
